US04200580
Borane methyl sulfide (BMS) complex (80 g, 1 m) was added dropwise to a mixture of diethyl-n-octylmalonate (90 g, 0.33) and tolune (400 ml) with stirring at room temperature. Stirring was continued for an additional hour. The mixture was refluxed gently for 10 hours, cooled to 20° C., and then poured slowly into ice-cold methanol (400 ml) with stirring and left to stand overnight. The solvent was stripped off and the residue was stirred with 10% hydrochloric acid solution (400 ml) overnight. The resulting mixture was extracted with chloroform (2×70 ml) and washed with water until neutral to litmus. The solvent was evaporated and the residue was vacuum distilled to yield 2-n-octylpropane-1,3-diol (25.5 g, 41%) bp 135°-140° C./0.5-0.8 mm.

reactant | diethyl-n-octylmalonate | 90 g | C(C)OC(C(C(=O)OCC)CCCCCCCC)=O | C15H28O4
solvent | hydrochloric acid | 400 ml | Cl | ClH
product | 2-n-octylpropane-1,3-diol | 25.5 g, 41% | C(CCCCCCC)C(CO)CO | C11H24O2
